US08067362B2
Step 2: 4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid tert-butyl ester
4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid (4.4 g, 13 mmol) was suspended in dry toluene (150 ml), under N2. The mixture was refluxed and a solution of N,N-dimethylformamide di-tert-butyl acetal (7.93 g, 39 mmol) in toluene (50 ml) was added over ca. 15 min. After refluxing 16 h, the reaction was allowed to cool and some precipitation occurred. TLC (1:2 AcOEt/heptane) indicated ca. 50% completion. The reaction was heated to 70° C. and another portion of N,N-dimethylformamide di-tert-butyl acetal (7.93 g, 39 mmol) in toluene (50 ml) was added over 1.5 h. After stirring an additional hour at 70° C., the sample was concentrated under vacuum to yield an brown oil. Purification by flash chromatography (15 cm×40 mm dia., 1:2 AcOEt/heptane) yielded a yellow oil (3.65 g, 71%)

reactant | 4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid | 13 mmol, 4.4 g | COC(=O)CCCCCCCCCSC1=CC=C(C(=O)O)C=C1 | C18H26O4S
reactant | N,N-dimethylformamide di-tert-butyl acetal | 39 mmol, 7.93 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 39 mmol, 7.93 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid tert-butyl ester | 3.65 g, 71% | C(C)(C)(C)OC(C1=CC=C(C=C1)SCCCCCCCCCC(=O)OC)=O | C22H34O4S
